US05665718
A suspension of 1.50 g (0.0043 mol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl) -8-fluoro-5-methyl-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one in 15 ml of dimethylformamide was treated with 1.5 g (0.022 mol) of pyrrolidine. After stirring at room temperature for 65 hrs. the yellow-orange solution obtained was freed completely from solvent. The residue was chromatographed over silica gel with dichloromethane/methanol 19:1 as the eluent. The product was recrystallized from methanol/ether. There were obtained 1.35 g (82%) of 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 158°-160°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl) -8-fluoro-5-methyl-5,6-dihydro-4H-imidazo [1,5-a][1,4]benzodiazepin-6-one | 0.0043 mol, 1.50 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | pyrrolidine | 0.022 mol, 1.5 g | N1CCCC1 | C4H9N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-fluoro-5-methyl-3-(5-pyrrolidin-1-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.35 g, 82% | FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CCCC3)C)=O)C1 | C19H19FN6O2
